US09102623B2
A11.1) 1-Butoxy-4,4,5,5-tetrafluoropent-1-en-3-one
With stirring and at 0° C., 25.0 g (152 mmol) of 3H-tetrafluoropropionyl chloride—dissolved in 20 ml dichloromethane—were added to a mixture of 14.4 g (182 mmol) of pyridine and 15.2 g (152 mmol) of butyl vinyl ether in 250 ml of dichloromethane. After the addition, stirring was continued at room temperature for another 15 h. 250 ml of water were then added to the mixture, and the organic phase was separated off, dried and concentrated. This gave 12.5 g (36% of theory) of a yellowish oil.

reactant | 3H-tetrafluoropropionyl chloride | 152 mmol, 25.0 g | C(C(C(=O)Cl)(F)F)(F)F | C3HClF4O
reactant | pyridine | 182 mmol, 14.4 g | N1=CC=CC=C1 | C5H5N
reactant | butyl vinyl ether | 152 mmol, 15.2 g | C(=C)OCCCC | C6H12O
reactant | water | 250 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 1-Butoxy-4,4,5,5-tetrafluoropent-1-en-3-one | C(CCC)OC=CC(C(C(F)F)(F)F)=O | C9H12F4O2
